US05130313
A solution of 6H-dibenzo[c,e]-1,2-thiazine 5,5-dioxide (1.7 g) in dry N,N-dimethylformamide (15 cc) is added dropwise to a suspension of sodium hydride (0.25 g, 80% suspension in oil) in N,N-dimethylformamide (5 cc). After 30 minutes' stirring, a solution of 1-(3-chloropropyl)-4-(4-fluorobenzoyl)piperidine (2.1 g) in N,N-dimethylformamide (15 cc) is added. The reaction mixture is heated to 100° C. for 40 minutes and is then cooled and poured into a mixture of water (150 cc) and ethyl acetate (150 cc). The organic phase is washed with water (3×50 cc), is dried over magnesium sulphate and is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (0.06-0.2-mm particle size, 2-cm diameter, 25-cm height) and eluted with a mixture of cyclohexane and ethyl acetate (50--50 by volume), 30-cc fractions being collected; fractions 7 to 16 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue is recrystallized from ethanol (40 cc); the crystals obtained are filtered off, washed with ethanol (5 cc) and dried. 6-[3-(4-(4-fluorobenzoyl)-1-piperidyl)propyl]-6H-dibenzo[c,e]-1,2-thiazine 5,5-dioxide (1.8 g) is obtained, melting at 114° C.

reactant | 6H-dibenzo[c,e]-1,2-thiazine 5,5-dioxide | 1.7 g | C1=CC=CC2=C1C1=C(NS2(=O)=O)C=CC=C1 | C12H9NO2S
reactant | sodium hydride | 0.25 g | [H-].[Na+]
reactant | 1-(3-chloropropyl)-4-(4-fluorobenzoyl)piperidine | 2.1 g | ClCCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C15H19ClFNO
reactant | water | 150 cc | O | H2O
solvent | N,N-dimethylformamide | 15 cc | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 cc | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 cc | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 cc | C(C)(=O)OCC | C4H8O2
product | 6-[3-(4-(4-fluorobenzoyl)-1-piperidyl)propyl]-6H-dibenzo[c,e]-1,2-thiazine 5,5-dioxide | 1.8 g | FC1=CC=C(C(=O)C2CCN(CC2)CCCN2S(C3=C(C4=C2C=CC=C4)C=CC=C3)(=O)=O)C=C1 | C27H27FN2O3S
